US04827011
[1-(Hexadecyloxy)ethyl]oxirane
A mixture of 46.9 g of 1-[(1-methyl-2-propenyl)oxy]hexadecane, 32.19 g of m-chloroperbenzoic acid and 300 ml of methylene chloride was stirred overnight and then filtered. The filtrate was evaporated and the residue dissolved in petroleum ether:ether and washed with saturated aqueous sodium bicarbonate. The solution was dried, the solvent removed and the residue chromatographed via HPLC (two columns), eluting first with hexane to remove higher Rf impurities and then with 10% ether in hexane to elute the product, giving the desired compound as a clear oil.

reactant | 1-[(1-methyl-2-propenyl)oxy]hexadecane | 46.9 g | CC(C=C)OCCCCCCCCCCCCCCCC | C20H40O
reactant | m-chloroperbenzoic acid | 32.19 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | [1-(Hexadecyloxy)ethyl]oxirane | C(CCCCCCCCCCCCCCC)OC(C)C1OC1 | C20H40O2
